US07655664B2
In contrast to the 1,2,3,4-tetrahydroisoquinolines, there are rather few examples of synthetic methods for 1,2,3,4-tetrahydro-2,7-naphthyridines in the literature. One important method to prepare 1,2,3,4-tetrahydro-2,7-naphthyridine is the regio-selective catalytic reduction of 2,7-naphthyridine (Eur. J. Med. Chem. Ther. 1996, 31(11), 875-888). The synthesis of 2,7-naphthyridine and some derivatives thereof has been described in the literature. One classical route involves several steps and starts with the acid catalysed condensation of malononitrile with diethyl 1,3-acetonedicarboxylate (J. Chem. Soc. 1960, 3513-3515; see also J. Heterocycl. Chem. 1970, 7, 419-421). A slightly different route to 2,7-naphthyridine involves oxidation of 4-formyl-2,7-naphthyridine to give 2,7-naphthyridine-4-carboxylic acid followed by decarboxylation (Synthesis 1973, 46-47). A completely different method is based on the internal Diels-Alder reaction of N-(ethoxycarbonyl)-N-(but-3-ynyl)amino-methylpyrazine and gives a mixture of 1,2,3,4-tetrahydro-2,7-naphthyridine and 5,6,7,8-tetrahydro-1,7-naphthyridine after hydrolysis of the carbamate group (WO 02/064574).

reactant | 1,2,3,4-tetrahydro-2,7-naphthyridine | C1NCCC2=CC=NC=C12 | C8H10N2
reactant | 2,7-naphthyridine | C1=NC=CC2=CC=NC=C12 | C8H6N2
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | diethyl 1,3-acetonedicarboxylate | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | 4-formyl-2,7-naphthyridine | C(=O)C1=CN=CC2=CN=CC=C12 | C9H6N2O
product | 2,7-naphthyridine-4-carboxylic acid | C1=NC=C(C2=CC=NC=C12)C(=O)O | C9H6N2O2
